US04452738
26.3 g (0.1 mole) of 5-cyano-10-nitro-5H-dibenz[b,f]azepine are suspended in a mixture of 265 ml of ethylene glycol monoethyl ether and 75 ml of concentrated hydrochloric acid. 40 g of iron powder are added in small portions at 40° in the course of 40 minutes and the temperature is maintained at 40° by external cooling. The mixture is stirred for a further 2 hours at room temperature, is then heated to 80°, the precipitated product dissolving again, and is filtered through a heated suction filter, which is subsequently washed with ethylene glycol monoethyl ether. The crystallisation which commences in the filtrate is completed by adding 200 ml of water. After cooling for one hour in an ice-bath, filtration is carried out followed by washing with a mixture of ethylene glycol monoethyl ether and water in a ratio of 1:1. 5-cyano-10-oxo-10,11-dihydro-5H-dibenz[b,f]azepine is obtained which is identified, by comparing the IR spectra, with material from Example 27.

reactant | 5-cyano-10-nitro-5H-dibenz[b,f]azepine | 0.1 mole, 26.3 g | C(#N)N1C2=C(C=C(C3=C1C=CC=C3)[N+](=O)[O-])C=CC=C2 | C15H9N3O2
reactant | ethylene glycol monoethyl ether | 265 ml | C(C)OCCO | C4H10O2
solvent | hydrochloric acid | 75 ml | Cl | ClH
catalyst | iron | 40 g | [Fe] | Fe
product | 5-cyano-10-oxo-10,11-dihydro-5H-dibenz[b,f]azepine | C(#N)N1C2=C(CC(C3=C1C=CC=C3)=O)C=CC=C2 | C15H10N2O
